US04725601
To a solution of 37% aqueous formaldehyde (2.38 g) in acetic acid (38 ml) was added dropwise 50% aqueous dimethylamine (2.63 g) with ice-cooling over a period of 10 minutes and the mixture was stirred for an additional 10 minutes. The mixture was heated at 50°-55° C. for 2 hours after an addition of 8-(2-chlorobenzyloxy)-2-methylimidazo[1,2-a]pyridine (7.6 g) thereto and then evaporated in vacuo. The residue was basified with aqueous sodium hydroxide and extracted with methylene chloride. The extract was washed with water, dried over magnesium sulfate and evaporated in vacuo. The residual solid was recrystallized from a mixture of diethyl ether and n-hexane to give 8-(2-chlorobenzyloxy)-3-dimethylaminomethyl-2-methylimidazo[1,2-a]pyridine (7.85 g).

reactant | formaldehyde | 2.38 g | C=O | CH2O
reactant | dimethylamine | 2.63 g | CNC | C2H7N
reactant | 8-(2-chlorobenzyloxy)-2-methylimidazo[1,2-a]pyridine | 7.6 g | ClC1=C(COC=2C=3N(C=CC2)C=C(N3)C)C=CC=C1 | C15H13ClN2O
solvent | acetic acid | 38 ml | C(C)(=O)O | C2H4O2
product | 8-(2-chlorobenzyloxy)-3-dimethylaminomethyl-2-methylimidazo[1,2-a]pyridine | 7.85 g | ClC1=C(COC=2C=3N(C=CC2)C(=C(N3)C)CN(C)C)C=CC=C1 | C18H20ClN3O
